US09278931B2
A) tert-butyl(trans-2-{4-[({3-[(phenylcarbonyl)amino]phenyl}carbonyl)amino]phenyl}-cyclopropyl)carbamate
To a solution of tert-butyl [trans-2-(4-aminophenyl)cyclopropyl]carbamate (124 mg) described in a document (J. Am. Chem. Soc., 2010, 132, 6827.) in acetonitrile (4 mL) were added 3-[(phenylcarbonyl)amino]benzoic acid (100 mg), N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride (95 mg), 1-hydroxybenzotriazole (67.2 mg) and triethylamine (69 μL). The mixture was stirred at room temperature overnight and water was added. Ethyl acetate was added to the mixture, and the resulting solid was collected by filtration to give the title compound (188 mg).

reactant | tert-butyl [trans-2-(4-aminophenyl)cyclopropyl]carbamate | 124 mg | NC1=CC=C(C=C1)[C@H]1[C@@H](C1)NC(OC(C)(C)C)=O | C14H20N2O2
reactant | 3-[(phenylcarbonyl)amino]benzoic acid | 100 mg | C1(=CC=CC=C1)C(=O)NC=1C=C(C(=O)O)C=CC1 | C14H11NO3
reactant | N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride | 95 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 67.2 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | triethylamine | 69 μL | C(C)N(CC)CC | C6H15N
product | tert-butyl(trans-2-{4-[({3-[(phenylcarbonyl)amino]phenyl}carbonyl)amino]phenyl}-cyclopropyl)carbamate | 188 mg | C(C)(C)(C)OC(N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(=O)C1=CC(=CC=C1)NC(=O)C1=CC=CC=C1)=O | C28H29N3O4
